US09422279B2
Compound R Preparation of 2-methoxy-5-[[2-(3-methoxyphenyl)pyridin-3-yl]methoxy]pyridine-4-carbaldehyde
Into a 100-mL round-bottom flask, was placed a solution of 3-(chloromethyl)-2-(3-methoxyphenyl)pyridine (234 mg, 1.00 mmol, 1.00 equiv), 5-hydroxy-2-methoxypyridine-4-carbaldehyde (153 mg, 1.00 mmol, 1.00 equiv), and potassium carbonate (278 mg, 2.01 mmol, 2.00 equiv) in CH3CN (30 mL). The resulting solution was stirred for 4 h at 70° C., and then it was concentrated under vacuum. The crude product (200 mg) was purified by Prep-HPLC with the following conditions (Prep-HPLC-010): Column, SunFire Prep C18 OBD Column, 5 um, 19*150 mm; mobile phase, water with 0.1% TFA and MeCN (20% MeCN up to 40% in 10 min, up to 95% in 2 min, down to 20% in 1 min); Detector, Waters 2545 UvDector 254 & 220 nm. This resulted in 100.8 mg (17%) of 2-methoxy-5-[[2-(3-methoxyphenyl)pyridin-3-yl]methoxy]pyridine-4-carbaldehyde bis(trifluoroacetic acid) as a yellow solid.

reactant | 3-(chloromethyl)-2-(3-methoxyphenyl)pyridine | 1.00 mmol, 234 mg, 1.00 equiv | ClCC=1C(=NC=CC1)C1=CC(=CC=C1)OC | C13H12ClNO
reactant | 5-hydroxy-2-methoxypyridine-4-carbaldehyde | 1.00 mmol, 153 mg, 1.00 equiv | OC=1C(=CC(=NC1)OC)C=O | C7H7NO3
reactant | potassium carbonate | 2.01 mmol, 278 mg, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | 2-methoxy-5-[[2-(3-methoxyphenyl)pyridin-3-yl]methoxy]pyridine-4-carbaldehyde | COC1=NC=C(C(=C1)C=O)OCC=1C(=NC=CC1)C1=CC(=CC=C1)OC | C20H18N2O4
